US05939593
To a four-necked 2000 ml-volume flask equipped with a stirring machine, a dropping funnel, a Dimroth condenser and a thermometer, there was added a solution of 300.4 g of α-methylstyrene in 1200 g of toluene, followed by setting the temperature thereof to 0° C. by dipping the flask in ice-water and gradual dropwise addition of 300 ml of a toluene solution containing a catalyst, i.e., 1.02 g AlCl3 -2.5 ml CH3NO3 to the contents of the flask with stirring. The reaction solution at the completion of the reaction-was colored pale yellow. After the completion of the reaction, water was gently dropwise added to the reaction system to thus decompose the catalyst. Then the organic phase was washed with water, dried and concentrated. Further the organic phase was subjected to vacuum distillation under a degree of vacuum of 670 Pa and at a temperature ranging from 218 to 221° C. to give 140.0 g of 1,3-dimethyl-3-phenyl-1-(2-methyl-2-phenylpropyl) indane (MPI).

reactant | α-methylstyrene | 300.4 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | AlCl3 | -2.5 ml, 1.02 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | toluene | 1200 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-3-phenyl-1-(2-methyl-2-phenylpropyl) indane | 140.0 g | CC1(CC(C2=CC=CC=C12)(C1=CC=CC=C1)C)CC(C)(C1=CC=CC=C1)C | C27H30
